US08202868B2
2-tert-Butyl-4-cyclobutyl-6-{4-[3-(2-methylsulfanyl-pyrimidin-4-yloxy)-propyl]-piperazin-1-yl}-pyrimidine
0.36 g of sodium hydride (9 mmol, 60% in paraffin) were washed oil-free with pentane before 1.5 g of 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-propan-1-ol (4.5 mmol) dissolved in 20 ml of dioxane were added. The reaction was heated to reflux for 1 h. After cooling, 0.75 g of 4-chloro-2-methylsulfanyl-pyrimidine (4.67 mmol) dissolved in 10 ml of dioxane were added. The reaction mixture was stirred under reflux for 2 h. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was extracted with 5% aqueous citric acid, the pH of the aqueous phase was adjusted to basic pH with 2 N sodium hydroxide solution. The aqueous layer was re-extracted with ethyl acetate, the organic layer was dried over magnesium sulfate, filtered, and the solvent was evaporated to yield 1.75 g of the title compound as a yellowish oil.

reactant | sodium hydride | 9 mmol, 0.36 g | [H-].[Na+]
reactant | 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-propan-1-ol | 4.5 mmol, 1.5 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCO)C1CCC1 | C19H32N4O
reactant | 4-chloro-2-methylsulfanyl-pyrimidine | 4.67 mmol, 0.75 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | pentane | CCCCC | C5H12
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-tert-Butyl-4-cyclobutyl-6-{4-[3-(2-methylsulfanyl-pyrimidin-4-yloxy)-propyl]-piperazin-1-yl}-pyrimidine | 1.75 g | C(C)(C)(C)C1=NC(=CC(=N1)C1CCC1)N1CCN(CC1)CCCOC1=NC(=NC=C1)SC | C24H36N6OS
